US08030302B2
6-Bromo-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole
To a solution of 6-bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-5-ol (1.475 kg, 4.96 mol) in DMF (5.3 L) is added 3,4-difluoronitrobenzene (1.18 kg, 7.45 mol) and NaHCO3 (625.5 g, 7.45 mol) at RT. The reaction mixture is heated at 70° C. for 10 hours and then cooled to less than 20° C. Deionized (DI) water (7.9 L) is slowly added to the solution and the resulting slurry is stirred at 15° C. for one hour. The solid is collected by vacuum filtration, and the solid cake is washed with water (8 L). It is then air dried under vacuum on filter and is triturated with methyl MTBE (18.6 L) at reflux conditions for two hours. The slurry is then cooled to RT and the solid is collected by vacuum filtration. The solid cake is washed with MTBE (4 L×2) and dried in a vacuum oven at 35° C. to give the desired product (1.405 kg, 64.9% yield). MS (m/z): 436.0 (M+H).

reactant | 6-bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-5-ol | 4.96 mol, 1.475 kg | BrC=1C(=CC2=CN(N=C2C1)C1OCCCC1)O | C12H13BrN2O2
reactant | 3,4-difluoronitrobenzene | 7.45 mol, 1.18 kg | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | NaHCO3 | 7.45 mol, 625.5 g | C(=O)(O)[O-].[Na+]
reactant | water | 7.9 L | O | H2O
solvent | DMF | 5.3 L | CN(C)C=O | C3H7NO
product | 6-Bromo-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | 1.405 kg, 64.9% yield | BrC=1C(=CC2=CN(N=C2C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H15BrFN3O4
